US03936470
A solution of 87 parts of 2,4-dichloro-α-(chloromethyl)-benzenepropanol in 144 parts of concentrated sodium hydroxide solution and 350 parts of 2,2'-oxybispropane is stirred overnight at room temperature. The product is extracted with 2,2'-oxybispropane. The extract is washed with water, dried, filtered and evaporated. The oily residue is distilled, yielding [2-(2,4-dichlorophenyl)ethyl]oxirane; bp. 90°-98°C. at 0.01 mm. pressure.

reactant | 2,4-dichloro-α-(chloromethyl)-benzenepropanol | ClC1=C(C=CC(=C1)Cl)CCC(O)CCl | C10H11Cl3O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2,2'-oxybispropane | O(C(C)C)C(C)C | C6H14O
product | [2-(2,4-dichlorophenyl)ethyl]oxirane | ClC1=C(C=CC(=C1)Cl)CCC1OC1 | C10H10Cl2O
